US07199265B2
A mixture of ethyl(3,5-dichloro-4-[4-nitrophenoxy]phenyl) cinnamate (0.65 g), tindichloride dihydrate (1.0 g), ethylacetate (25 mL) and ethanol (25 mL) was heated at reflux for one hour. The reaction mixture was concentrated and the residue partioned beetween diethyl ether and sodium hydroxide (1 N). After purification on column (silica gel, ethyl acetate/petrolium ether, 3:7), 0.52 g of ethyl(3,5-dichloro-4-[4-aminophenoxy]phenyl) cinnamate was obtained.

reactant | ethyl(3,5-dichloro-4-[4-nitrophenoxy]phenyl) cinnamate | 0.65 g | C(C=CC1=CC=CC=C1)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC=C(C=C1)[N+](=O)[O-])Cl)CC | C23H17Cl2NO5
reactant | ethylacetate | 25 mL | C(C)OC(C)=O | C4H8O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl(3,5-dichloro-4-[4-aminophenoxy]phenyl) cinnamate | 0.52 g | C(C=CC1=CC=CC=C1)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC=C(C=C1)N)Cl)CC | C23H19Cl2NO3
